US08404684B2
1-[2-(5-Ethyl-oxazol-2-yl)-ethyl]-3-[5-(2-methanesulfonyl-6-methyl-pyrimidin-4-yl)-4-methyl-thiazol-2-yl]-urea
Meta-chloroperoxybenzoic acid or m-CPBA (57-86% purity, 0.438 g, 1.8 mmol) is added in portions to a rapidly stirring solution of 1-[2-(5-ethyl-oxazol-2-yl)-ethyl]-3-[5-(2-methane-sulfinyl-6-methyl-pyrimidin-4-yl)-4-methyl-thiazol-2-yl]-urea (0.31 g, 0.74 mmol) in dry dichloromethane (5 ml) at room temperature. After 2 hours the mixture is diluted with dichloromethane and washed with aqueous sodium thiosulfite and brine. The organic extract is separated, dried over MgSO4 and the solvent is removed. Purification by chromatography on silica, eluting with EtOAc, MeOH (97:3) affords the titled compound.

reactant | Meta-chloroperoxybenzoic acid | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | m-CPBA | 1.8 mmol, 0.438 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | 1-[2-(5-ethyl-oxazol-2-yl)-ethyl]-3-[5-(2-methane-sulfinyl-6-methyl-pyrimidin-4-yl)-4-methyl-thiazol-2-yl]-urea | 0.74 mmol, 0.31 g | C(C)C1=CN=C(O1)CCNC(=O)NC=1SC(=C(N1)C)C1=NC(=NC(=C1)C)S(=O)C | C18H22N6O3S2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-[2-(5-Ethyl-oxazol-2-yl)-ethyl]-3-[5-(2-methanesulfonyl-6-methyl-pyrimidin-4-yl)-4-methyl-thiazol-2-yl]-urea | C(C)C1=CN=C(O1)CCNC(=O)NC=1SC(=C(N1)C)C1=NC(=NC(=C1)C)S(=O)(=O)C | C18H22N6O4S2
